US05925674
12.6 g (0.056 mol) of 1-bromo-cyclohexanecarboxylic acid chloride are added dropwise at 0° C. with stirring to a mixture of 10 g (0.056 mol) of 4-amino-2,3-dichlorophenol and 100 ml of tetrahydrofuran. After adding half (5 g) of the acid chloride, 7.7 ml (0.05 mol) of triethylamine are added dropwise at the same time. When the addition has ended, the reaction mixture is stirred for 24 hours at 20° C. and then poured into 300 ml of ice-water. The mixture is extracted twice using in each case 300 ml of dichloromethane, and the organic phase is dried over magnesium sulphate and evaporated by stripping off the solvent under reduced pressure. The residue which remains is recrystallized from toluene. In this manner. 11.9 g (58% of theory) of 4-(1-bromo-cyclohexanoyl)-amino-2,3-dichloro-phenol are obtained in the form of a solid substance of melting point 142° C.

reactant | 1-bromo-cyclohexanecarboxylic acid chloride | 0.056 mol, 12.6 g | BrC1(CCCCC1)C(=O)Cl | C7H10BrClO
reactant | 4-amino-2,3-dichlorophenol | 0.056 mol, 10 g | NC1=C(C(=C(C=C1)O)Cl)Cl | C6H5Cl2NO
reactant | triethylamine | 0.05 mol, 7.7 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(1-bromo-cyclohexanoyl)-amino-2,3-dichloro-phenol | 11.9 g, 58% | BrC1(CCCCC1)C(=O)C1=C(C(=C(C=C1N)O)Cl)Cl | C13H14BrCl2NO2
